US08476298B2
To a dry 1 L RBF containing 6,7-dimethoxy-quinolin-4-ol (20.9 g, 102 mmol), which can be prepared according to the procedure of Riegel, B. (J. Amer. Chem. Soc. 1946, 68, 1264), was added DCM (500 mL), 4-dimethylaminopyridine (1.24 g, 10 mmol) and 2,6-lutidine (24 mL, 204 mmol). The mixture was vigorously stirred at RT. Trifluoromethanesulfonyl chloride (14 mL, 132 mmol) was added dropwise to the solution. After addition was complete, the mixture was stirred ice bath for 2 to 3 hrs. On LC/MS indicating the reaction completion, the reaction mixture was concentrated in vacuo and placed under high vacuum to remove residual 2,6-lutidine. To the resulting brown solids was added methanol (250 mL). The resulting slurry was stirred for 30 min before adding water (1 L). The solids were isolated by filtration, followed by a water wash. The resulting solid was dried under high vacuum overnight yielding trifluoromethanesulfonic acid 6,7-dimethoxy-quinolin-4-yl ester as a light brown solid (27 g, 80%). 1H NMR (400 MHz, DMSO, d6): δ 8.82 (d, 1H), 7.59 (m, 2H), 7.20 (s, 1H), 3.97 (d, 6H). LC/MS: M+H=338.

reactant | 6,7-dimethoxy-quinolin-4-ol | 102 mmol, 20.9 g | COC=1C=C2C(=CC=NC2=CC1OC)O | C11H11NO3
reactant | DCM | 500 mL | C(Cl)Cl | CH2Cl2
reactant | 2,6-lutidine | 204 mmol, 24 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | Trifluoromethanesulfonyl chloride | 132 mmol, 14 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
catalyst | 4-dimethylaminopyridine | 10 mmol, 1.24 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | trifluoromethanesulfonic acid 6,7-dimethoxy-quinolin-4-yl ester | 27 g, 80% | COC=1C=C2C(=CC=NC2=CC1OC)OS(=O)(=O)C(F)(F)F | C12H10F3NO5S
